US06462198B1
(RS)-(2-Bromo-9H-xanthene-9-carbonyl)-carbamic acid ethyl ester
The title compound, light brown solid, m.p. 203° C. and MS: m/e=375 (M+) was prepared in accordance with the general method of example 6 from urethane and 2-bromo-9H-xanthene-9-carbonyl chloride.

reactant | urethane | NC(=O)OCC | C3H7NO2
reactant | 2-bromo-9H-xanthene-9-carbonyl chloride | BrC1=CC=2C(C3=CC=CC=C3OC2C=C1)C(=O)Cl | C14H8BrClO2
product | (RS)-(2-Bromo-9H-xanthene-9-carbonyl)-carbamic acid ethyl ester | C(C)OC(NC(=O)C1C2=CC=CC=C2OC=2C=CC(=CC12)Br)=O | C17H14BrNO4
